US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 52, Step B using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide (156 mg, 0.267 mmol) and ammonia in methanol (10 mL, 70 mmol), the title compound was obtained as a yellow solid (53 mg, 33% yield). MS (ESI): 564 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-2,6-difluorobenzenesulfonamide | 0.267 mmol, 156 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C1CCOCC1)NS(=O)(=O)C1=C(C=CC=C1F)F | C24H18Cl2F2N4O3S2
reactant | ammonia | N | H3N
reactant | methanol | 70 mmol, 10 mL | CO | CH4O
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-chlorophenyl}-2,6-difluorobenzenesulfonamide | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)Cl | C24H20ClF2N5O3S2
